US09210927B2
Preparation of (E)-(4-(4,4,4-Trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)naphthalen-1-yl)methanamine (CI71)
To a stirred solution of (E)-2-((4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)naphthalen-1-yl)methyl)isoindoline-1,3-dione (0.4 g, 0.7 mmol) in EtOH was added hydrazine hydrate (0.18 g, 3.5 mmol), and the resultant reaction mixture was heated at 80° C. for 2 h. The reaction mixture was filtered, and the filtrate was concentrated. The residue was dissolved in CH2Cl2, and the solution was washed with brine, dried over Na2SO4, and concentrated under reduced pressure. The title compound was isolated as a gummy liquid (150 mg, 50%). The product obtained in this reaction was carried on to the next step without further purification.

reactant | (E)-2-((4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)naphthalen-1-yl)methyl)isoindoline-1,3-dione | 0.7 mmol, 0.4 g | FC(C(/C=C/C1=CC=C(C2=CC=CC=C12)CN1C(C2=CC=CC=C2C1=O)=O)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C29H17Cl3F3NO2
reactant | hydrazine hydrate | 3.5 mmol, 0.18 g | O.NN
solvent | EtOH | CCO | C2H6O
product | (E)-(4-(4,4,4-Trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)naphthalen-1-yl)methanamine | FC(C(/C=C/C1=CC=C(C2=CC=CC=C12)CN)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C21H15Cl3F3N
